US07186729B2
Step 1: 4-(4-Chloro-2-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
2-Bromo-5-chlorotoluene (0.82 g, 4 mmol) and tert-Butyl 1-piperazine carboxylate (0.89 g, 2.32 mmol) were added to a solution of tri-t-butyl phosphine (0.033 g, 4 mmol %), tris(dibenzylideneacetone)dipalladium(0) (0.075 g, 2.0 mmol %) and cesium carbonate (1.95 g, 6.0 mmol) in toluene and heated to 80° C. overnight. The reaction mixture was filtered through celite and concentrated in vacuo. The crude product was purified on silica gel (gradient elution from 20% ethyl acetate/hexane to 50% ethyl acetate/hexane) to give the title compound in 20% yield. ESI-MS m/z: 311 (M+1), UV retention time: 3.49 min.

reactant | 2-Bromo-5-chlorotoluene | 4 mmol, 0.82 g | BrC1=C(C=C(C=C1)Cl)C | C7H6BrCl
reactant | tert-Butyl 1-piperazine carboxylate | 2.32 mmol, 0.89 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | tri-t-butyl phosphine | 4 mmol, 0.033 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 6.0 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.0 mmol, 0.075 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-Chloro-2-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 20% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)C | C16H23ClN2O2
